US05411979
To a mixture of 2.92 g (54.6 mmol.) of ammonium chloride, 2.47 g (50.4 mmol.) of sodium cyanide and 18 ml (296 mmol.) of a 28% aqueous solution of ammonia, there was added dropwise a solution of the wet cake of 2-[4-(1,1-dimethylethyl)phenoxy]acetoaldehyde obtained in Production Example 9 in 8 ml of methanol with stirring at a temperature of 10° C. for 30 minutes. Then the reaction mixture was further stirred at the same temperature for 30 minutes. Then, the reaction mixture was stirred under an atmosphere of a gas of ammonia at room temperature for 2 days. After the reaction was completed, the resultant mixture was poured into cold water and extracted with ethyl acetate. The residue was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 3.89 g of 2-amino-3-[4-(1,1-dimethylethyl)phenoxy]propionitrile as a light-yellowish resinoid [60 MHz 1H-NMR (CDCl3, TMS), δ (ppm) 1.26(9H,s), 4.05(2H,d, J=5Hz), 4.63(1H,t, J=5Hz), 6.72(2H,d, J=10Hz), 7.21(2H,d, J=10Hz)].

reactant | ammonium chloride | 54.6 mmol, 2.92 g | [Cl-].[NH4+]
reactant | sodium cyanide | 50.4 mmol, 2.47 g | [C-]#N.[Na+]
reactant | ammonia | N | H3N
reactant | 2-[4-(1,1-dimethylethyl)phenoxy]acetoaldehyde | CC(C)(C)C1=CC=C(OCC=O)C=C1 | C12H16O2
solvent | methanol | 8 ml | CO | CH4O
solvent | water | O | H2O
product | 2-amino-3-[4-(1,1-dimethylethyl)phenoxy]propionitrile | 3.89 g | NC(C#N)COC1=CC=C(C=C1)C(C)(C)C | C13H18N2O
